**********
* Copyright Intusoft 1988-1997
* All Rights Reserved
**********
**********
*SRC=SINT;SINT;Behavioral;MathCalc;Integrate(Vin)
*SYM=SINT
.SUBCKT SINT  1  2 {K=???}
*Connections: In Out
*Parameters: K Gain
RIN 1 0 1E12
E1 3 0 0 1 {K}
C1 2 4 1U IC=0
R1 3 4 1MEG
E2 2 0 0 4 1E6
.ENDS
**********
*SRC=NTGR8;NTGR8;Behavioral;MathCalc;Int w/ICs and Limits
*SYM=NTGR8
.SUBCKT NTGR8 1  2 {K=???  INIT=??? PLIM=??? NLIM=???}
*Connections: In Out
*Parameters: K Gain, INIT Initial Output in Volts, PLIM Positive rail in Volts
* NLIM Negative rail in Volts
RIN 1 0 1E12
E1 3 0 0 1 {K}
C1 2 4 1U IC={INIT}
R1 3 4 1MEG
E2 2 0 0 4 1E6
*DIODES WILL HAVE .0597V DROP AT I=10UA
VN 5 2 {NLIM-.0597}
DN 4 5 DN
.MODEL DN D(IS=1E-12 N=.14319)
VP 2 6 {PLIM-.0597}
DP 6 4 DN
.ENDS
**********
*SRC=RLIMIT;RLIMIT;Behavioral;Amplifiers;Resistive Limiter
*SYM=LIMIT
*HELP issyntax.hlp "Resistive Limiter"
.SUBCKT RLIMIT 1 2 {RMIN=10k VMAX=??? VMIN=???}
B 1 2 I=V(1,2) > {VMAX} ? 
+ {VMAX * (1/RVAL - 1/RMIN) } +  V(1,2)  / {RMIN} : 
+ V(1,2) < {VMIN} ? {VMIN * (1/RVAL - 1/RMIN) } +  V(1,2)  / {RMIN} : 
+  V(1,2) / {RVAL} 
.ENDS
*******
*SRC=LIMIT;LIMIT;Behavioral;Amplifiers;Limiter
*SYM=LIMIT
.SUBCKT LIMIT 1  2 {K=??? PLIM=??? NLIM=???}
*Connections: In Out
*Parameters: K Gain, PLIM Positive rail in Volts, NLIM Negative rail in Volts
RIN 1 0 1E12
E1 3 0 0 1 {K}
RC1 2 4 1MEG
C1 2 4 1F IC=0
R1 3 4 1MEG
E2 2 0 0 4 1E6
*DIODES WILL HAVE .0597V DROP AT 10V INPUT FOR GAIN=1
*IDIODE = IS*EXP(.597/.O26)
VN 5 2 {NLIM-.0597}
DN 4 5 DN
.MODEL DN D(IS=1E-12 N=.14319)
VP 2 6 {PLIM-.0597}
DP 6 4 DN
.ENDS
**********
*SRC=ZDIFF;ZDIFF;Behavioral;Z Domain;Z Transform Differentiator
*SYM=ZDIFF
.SUBCKT ZDIFF 1  2  {K=??? TD=???}
*Connections: In Out
*Parameters: K Gain, TD=Delay in Seconds
RIN 1 0 1E12
E1 3 0 1 0 {K/TD}
T1 3 0 4 0 Z0=1K TD={TD}
R1 4 0 1K
*E2 2 0 POLY(2) 3 0 0 4 0 1 1
B2 2 0 V = V(3) * -1 * V(4) 
R2 2 0 1E12
.ENDS
**********
*SRC=SDIFF;SDIFF;Behavioral;MathCalc;Derivative d(Vin)/dt
*SYM=SDIFF
.SUBCKT SDIFF 1  2  {K=???}
*Connections: In Out
*Parameters: K Gain
RIN 1 0 1E12
E1 3 0 0 1 {K}
C1 3 4 1U IC=0
R1 2 4 1MEG
E2 2 0 0 4 {1E6}
.ENDS
**********
*SRC=SUM2;SUM2;Behavioral;MathAlgebra;Vin1+/-Vin2
*SYM=SUM2
.SUBCKT SUM2  1   2   3  {K1=??? K2=???}
*Connections: In1 In2 Out
*Parameters: K1 GAIN1, K2 GAIN2
B1 3 0 V = {K1}*V(1) + {K2}*V(2)
.ENDS
**********
*SRC=SUM3;SUM3;Behavioral;MathAlgebra;Vin1+/-Vin2+/-Vin3
*SYM=SUM3
.SUBCKT SUM3  1   2   3   4  {K1=??? K2=??? K3=???}
*Connections: In1 In2 In3 Out
*Parameters: K1 GAIN1, K2 GAIN2, K3 GAIN3
B1 4 0 V = {K1}*V(1) + {K2}*V(2) + {K3}*V(3)
.ENDS
**********
*SRC=PZ;PZ;Behavioral;MathCalc;Pole-Zero
*SYM=PZ
.SUBCKT PZ    1  2 {K=??? FP=??? FO=???}
*Connections: In Out
*Parameters: K Gain, FP POLE FREQ in Hz, FO ZERO FREQ in Hz
* K*Vin*(s/(2piFO)+1))/(s/(2piFP)+1))
E1 0 3 1 0 {K}
RI 1 0 1E12
R1 3 4 1MEG
R2 4 2 1MEG
C1 3 4 {1U/(6.28319*FO)}
C2 2 4 {1U/(6.28319*FP)}
E2 2 0 0 4 1E6
.ENDS
**********
*SRC=POLE;POLE;Behavioral;MathCalc;First Order Pole
*SYM=POLE
.SUBCKT POLE  1  2 {K=??? FP=???}
*Connections: In Out
*Parameters: K Gain, FP POLE FREQ in Hz
* K*Vin*wn/(s+wn)
E1 0 3 1 0 {K}
RI 1 0 1E12
R1 3 4 1MEG
R2 4 2 1MEG
C2 2 4 {1U/(6.28319*FP)}
E2 2 0 0 4 1E6
.ENDS
**********
*SRC=POLE2;POLE2;Behavioral;MathCalc;Second Order Pole
*SYM=POLE2
.SUBCKT POLE2 1  2 {K=??? Fn=??? Z=???}
*Connections: In Out
*Parameters: K DC Gain, FREQ Natural Frequency in Hz, Z Damping
*
*TRANSFER FUNCTION:  K*WN^2/(S^2 +2*Z*WN*S + WN^2)
*                    WHERE WN=2*PI*FN			
RI 1 0 1E12
E1 3 0 1 0 {K}
R1 3 4 1MEG
E2 5 0 0 4 1E6
C1 4 5 {.159155U/FN} IC=0
RZ 4 5 {.5MEG/Z}
R2 5 7 -1MEG
E3 2 0 0 7 1E6
C2 2 7 {.159155U/FN} IC=0
R3 2 4 1MEG
.ENDS
**********
*SRC=MUL;MUL;Behavioral;MathAlgebra;Multiply Vin1*Vin2
*SYM=MUL
.SUBCKT MUL   1   2   3 {K=???}
*Connections: In1 In2 Out
*Parameters: K Gain
B1 3 0 V = V(1) * V(2) * {K}
.ENDS
**********
*SRC=MUL3;MUL3;Behavioral;MathAlgebra;Multiply Vin1*Vin2*Vin3
*SYM=MUL3
.SUBCKT MUL3  1   2   3   4 {K=???}
*Connections: In1 In2 In3 OUT
*Parameters: K Gain
B1 4 0 V = V(1) * V(2) * V(3) * {K}
.ENDS
**********
*SRC=ZCINT;ZCINT;Behavioral;Z Domain;Z Transform Integrator
*SYM=ZCINT
.SUBCKT ZCINT 1  2  {K=??? TD=???}
*Connections: In Out
*Parameters: K Gain, TD Delay in Seconds
* Transfer functions K*TD/(1-Z^-1)
*
RIN 1 0 1E12
B1 2 0 V = {K*TD} * V(1) + V(3)
T1 2 0 3 0 Z0=1K TD={TD}
R1 3 0 1K
.ENDS
**********
*SRC=ZCINTD;ZCINTD;Behavioral;Z Domain;Z Transform Int w/Delay
*SYM=ZCINTD
.SUBCKT ZCINTD 1  4  {K=??? TD=???}
*Connections:  In Out
*Parameters: K Gain, TD Delay in Seconds
* Transfer functions K*TD * Z^-1 / (1-Z^-1)
*
RIN 1 0 1E12
B1 2 0 V = {K*TD} * V(1) + V(3)
T1 2 0 3 0 Z0=1K TD={TD}
R1 3 0 1K
E2 4 0 3 0 1
RO 4 0 1E12
.ENDS
**********
*SRC=SQROOT;SQROOT;Behavioral;MathAlgebra;Square Root Vin^.5
*SYM=SQROOT
.SUBCKT SQROOT 1  2
*Connections:  In Out
B1 2 0 V = SQRT( V(1) )
.ENDS
**********
*SRC=GAIN;GAIN;Behavioral;Amplifiers;K * Vin
*SYM=GAIN
.SUBCKT GAIN  1  2 {K=???}
*Connections: In Out
*Parameters: K Gain
E1 2 0 1 0 {K}
.ENDS
**********
*SRC=SQ-CUBE;SQ-CUBE;Behavioral;MathAlgebra;Square Cube Vin^2, Vin^3
*SYM=SQ-CUBE
.SUBCKT SQ-CUBE 1   2   3 {K1=1 K2=1}
*Connections:   In1 In2 Out
*Parameters: K1 Gain Node 1, K2 Gain Node 2
*X Node 1, K1*X^2 Node 2, K2*X^3 Node 3
B1 2 0 V = {K1} * V(1)^2
B2 3 0 V = {K2} * V(1)^3
.ENDS
**********
*SRC=VAREXP;VAREXP;Behavioral;MathAlgebra;Var. Exp. Vin1^Vin2
*SYM=VAREXP
.SUBCKT VAREXP 1   2   3
*Connections:  InX InY Out
*X > 0 Input Node 1, -Y Exponent Node 2, X^Y Output Node 3
* Note the Y input must the negative of the exponent value
B1 3 0 V = V(1)^V(2)
.ENDS
**********
*SRC=LOG;LOG;Behavioral;MathAlgebra;Log10(Vin)
*SYM=LOG
.SUBCKT LOG   1  2
*Connections: In Out
B1 2 0 V = LOG( V(1) )
.ENDS
**********
.SUBCKT LIMITV 1  2   10   11 {NLIM=??? PLIM=???}
*Connections:  IN OUT +LIM -LIM
*Parameters: K Gain, PLIM Positive rail in Volts, NLIM Negative rail in Volts
RIN 1 0 1E12
E1 3 0 0 1 1
RC1 2 4 .1MEG
C1 2 4 1F IC=0
R1 3 4 .1MEG
E2 102 0 0 4 1E6
DX 102 2 DN
*DIODES WILL HAVE .0597V DROP AT 1V INPUT FOR GAIN=1
*IDIODE = IS*EXP(.597/.O26)
RN 11 0 1MEG
*VN 5 2 {NLIM-.0597}
DN 4 102 DN
.MODEL DN D(IS=1E-12 N=.14319)
EP 2 6 10 0 -.0597 1
*VP 2 6 {PLIM-.0597}
DP 6 4 DN
.ENDS
**********
*SRC=SIN;SIN;Behavioral;MathTrig;Sin(Vin)
*SYM=SINANG
.SUBCKT SIN   1  2
*Connections: In Out
*Input Vin in radians, Output Sin(Vin)
B1 2 0 V = SIN( V(1) )
.ENDS
**********
*SRC=COS;COS;Behavioral;MathTrig;Cos(Vin)
*SYM=COS
.SUBCKT COS   1  2
*Connections: In Out
*Input Vin in radians, Output Cosine(Vin)
B1 2 0 V = COS( V(1) )
.ENDS
**********
*SRC=TAN;TAN;Behavioral;MathTrig;Tan(Vin)
*SYM=TAN
.SUBCKT TAN   1  2
*Connections: In Out
*Input Vin in radians, Output Tan(Vin)
B1 2 0 V = TAN( V(1) )
.ENDS
**********
*SRC=DIVIDE;DIVIDE;Behavioral;MathAlgebra;Vin1/Vin2
*SYM=DIVIDE
.SUBCKT DIVIDE 1   2   4
*Connections:  InN InD Out
* V4 = V1 / V2
B1 4 0 V = V(1) / V(2)
.ENDS
**********
*SRC=EXP;EXP;Behavioral;MathAlgebra;exp(Vin)
*SYM=EXP
.SUBCKT EXP   1  2
*Connections: In Out
B1 2 0 V = EXP( V(1) )
.ENDS
**********
*SRC=HTAN;HTAN;Behavioral;MathTrig;Hyperbolic Tan Htan(Vin)
*SYM=HTAN
.SUBCKT HTAN  6  7
*Connections: In Out
B1 7 0 V = TANH( V(6) )
.ENDS
**********
*SRC=BESSEL;BESSEL;Behavioral;MathAlgebra;J0 & J1 for 0<Vin<5
*SYM=BESSEL
.SUBCKT BESSEL 1   3   2
*Connections   Vin Jo  J1
*Bessel Function Jo(Vin) & J1(Vin) 0<= Vin <= 5
E0 2 0 1 0 1 0 -.25 0 .015625 0 -4.34028E-4 0 6.78168E-6 0 -6.78168E-8
E1 3 0 1 0 0 .5 0 -.0625 0 2.60417E-3 0 -5.42535E-5 0 6.78168E-7 0 -5.6514E-9
R1 2 0 1G
R2 3 0 1G
R3 1 0 1G
.ENDS
**********
*SRC=ABS;ABS;Behavioral;MathAlgebra;Abs. Value |Vin|
*SYM=ABS
.SUBCKT ABS   1   4
*Connections  In  Out
*Absolute Value Vout = |Vin|
B1 4 0 V = ABS( V(1) )
.ENDS
**********
*SRC=SIGNUM;SIGNUM;Behavioral;MathAlgebra;Vout=+1 if Vin<0, -1 if Vin>0
*SYM=SIGNUM
.SUBCKT SIGNUM   1   3
*Connections     In  Out
*Vout = +1 if Vin is < 0 and -1 if Vin is > 0
.MODEL DIODE D N=0.1
D3 5 2 DIODE
D4 2 6 DIODE
D2 1 6 DIODE
R2 6 7 1MEG
VEE 7 0 -15
R1 5 4 1MEG
VCC 4 0 15
R3 2 3 68K
R4 1 2 10K
E1 3 0 0 2 1MEG
D1 5 1 DIODE
.ENDS
**********
*SRC=MIN;MIN;Behavioral;Function Block;Min(V1,V2)
*SYM=MIN
.SUBCKT MIN  1   2   3
*Connections In1 In2 Out
BMIN 3 0 V=V(1) < V(2) ? V(1) : V(2)
.ENDS
**********
*SRC=MAX;MAX;Behavioral;Function Block;Max(V1,V2)
*SYM=MAX
.SUBCKT MAX  1   2   3
*Connections In1 In2 Out
BMAX 3 0 V=V(1) > V(2) ? V(1) : V(2)
.ENDS
**********
*SRC=MIN3;MIN3;Behavioral;Function Block;Min(V1,V2,V3)
*SYM=MIN3
.SUBCKT MIN3  1   2  3   4
*Connections In1 In2 In3 Out
BMIN1 5 0 V=V(1) < V(2) ? V(1) : V(2)
BMIN2 4 0 V=V(3) < V(5) ? V(3) : V(5)
.ENDS
**********
*SRC=MAX3;MAX3;Behavioral;Function Block;Max(V1,V2,V3)
*SYM=MAX3
.SUBCKT MAX3  1   2  3   4
*Connections In1 In2 In3 Out
BMAX1 5 0 V=V(1) > V(2) ? V(1) : V(2)
BMAX2 4 0 V=V(3) > V(5) ? V(3) : V(5)
.ENDS
**********
*SRC=VCVS;VCVS;Dependent Sources;Linear;Voltage Controlled Voltage 
*SYM=VCVS
.SUBCKT VCVS 1    2    3   4 {Offset=0 Gain=1}
*Connections Out+ Out- In+ In-
*Parameters: Offset DC Voltage Offset in Volts, Gain Gain
E1 1 2 3 4 {Offset} {Gain}
.ENDS
**********
*SRC=CCVS;CCVS;Dependent Sources;Linear;Current Controlled Voltage 
*SYM=CCVS
.SUBCKT CCVS 1    2    3   4 {Offset=0 Gain=1}
*Connections Out+ Out- In+ In-
*Parameters: Offset DC Current Offset in Volts, Gain Gain
H1 1 2 V1 {Offset} {Gain}
V1 3 4
.ENDS
**********
*SRC=VCCS;VCCS;Dependent Sources;Linear;Voltage Controlled Current
*SYM=VCCS
.SUBCKT VCCS 1    2    3   4 {Offset=0 Gain=1}
*Connections Out+ Out- In+ In-
*Parameters: Offset DC Voltage Offset in Volts, Gain Gain
G1 1 2 3 4 {Offset} {Gain}
.ENDS
**********
*SRC=CCCS;CCCS;Dependent Sources;Linear;Current Controlled Current 
*SYM=CCCS
.SUBCKT CCCS 1    2    3   4 {Offset=0 Gain=1}
*Connections Out+ Out- In+ In-
*Parameters: Offset DC Current Offset in Volts, Gain Gain
F1 1 2 V1 {Offset} {Gain}
V1 3 4
.ENDS
***************

